### PR TITLE
Simultaneous equality elimination for multiple equalities

### PR DESCRIPTION
**Pull request by Engreyight**

### CODE REVIEW

File: matching-logic/src/Experimental/EqCon.v [hunk 1]
```diff
@@ -0,0 +1,241 @@
...
+  (* Mu-freeness is a stricter property. *)
+  Lemma mf_imp_ktwf φ : mu_free φ -> pattern_kt_well_formed φ.
+  Proof.
+    intros.
+    induction φ; auto.
+    all: inversion H; apply andb_true_iff in H1 as [?%IHφ1 ?%IHφ2]; now apply andb_true_iff.
+  Defined.
+
+  (* Allows splitting `wf` without unfolding in-place. *)
+  Lemma wf_cons x l : wf (x :: l) <-> well_formed x /\ wf l.
```
Comment (berpeti) [inline matching-logic/src/Experimental/EqCon.v:48]: Please, move this to `Pattern.v`.

File: matching-logic/src/Experimental/EqCon.v [hunk 2]
```diff
@@ -0,0 +1,241 @@
...
+
+Open Scope ml_scope.
+Open Scope string_scope.
+Open Scope list_scope.
+
+Section EqCon.
+  Context {Σ : Signature} {syntax : Syntax}.
+
+  (* Mu-freeness is a stricter property. *)
+  Lemma mf_imp_ktwf φ : mu_free φ -> pattern_kt_well_formed φ.
```
Comment (berpeti) [inline matching-logic/src/Experimental/EqCon.v:40]: Please, move this to `Syntax.v`.

File: matching-logic/src/Experimental/EqCon.v [hunk 3]
```diff
@@ -0,0 +1,241 @@
...
+  (* Allows splitting `wf` without unfolding in-place. *)
+  Lemma wf_cons x l : wf (x :: l) <-> well_formed x /\ wf l.
+  Proof.
+    unfold wf. simpl. apply andb_true_iff.
+  Defined.
+
+  (* Same proof as `bevar_subst_evar_quantify_free_evar`, *)
+  (* but more general statement. *)
+  Lemma bevar_subst_evar_quantify x p dbi ϕ:
+    well_formed_closed_ex_aux ϕ dbi ->
```
Comment (berpeti) [inline matching-logic/src/Experimental/EqCon.v:56]: Please, move this to `Substitution.v`.

File: matching-logic/src/Experimental/EqCon.v [hunk 4]
```diff
@@ -0,0 +1,241 @@
...
+      destruct_and!.
+      rewrite IHϕ1;[assumption|].
+      rewrite IHϕ2;[assumption|].
+      reflexivity.
+    - rewrite IHϕ;[assumption|reflexivity].
+    - rewrite IHϕ;[assumption|reflexivity].
+  Qed.
+
+  (* Very similar to `mf_fold_left`, but this wasn't needed before. *)
+  Corollary mf_foldr {A : Type} (f : A -> Pattern -> Pattern) (t : A -> Pattern) x xs :
```
Comment (berpeti) [inline matching-logic/src/Experimental/EqCon.v:79]: Please, move this to `Pattern.v` beside `mf_fold_left` and unify the lemma names.

File: matching-logic/src/Experimental/EqCon.v [hunk 5]
```diff
@@ -0,0 +1,241 @@
...
+    auto.
+  Qed.
+
+  (* The remainder works for any theory containing definedness. *)
+  Context (Γ : Theory).
+  Hypothesis (HΓ : theory ⊆ Γ).
+
+  (* Equality elimination for substitution using a functional *)
+  (* pattern. *)
+  Lemma equality_elimination_functional_subst p q p1 p2 x :
```
Comment (berpeti) [inline matching-logic/src/Experimental/EqCon.v:98]: Please, move this to `FOEquality_ProofSystem.v`.

File: matching-logic/src/Experimental/EqCon.v [hunk 6]
```diff
@@ -0,0 +1,241 @@
...
+  (* Separate equalities as a hypothesis. *)
+  Definition hypos : Type := foldr (fun x t => ((Γ ⊢ x.1.2 =ml x.2) * t)%type) unit σ.
+
+  (* Same as `emplace`ing into a context with multiple holes. *)
+  Definition goal (φ : Pattern) : Pattern := (foldr (fun x p => p^[[evar: x.1.1 ↦ x.1.2]]) φ σ) =ml (foldr (fun x p => p^[[evar: x.1.1 ↦ x.2]]) φ σ).
+
+  (* For any pattern (which would serve as the core of the context), *)
+  (* given the eqalities as hypothesis, substituting into the *)
+  (* multihole context yields equality. *)
+  Lemma eqcon : forall φ,
```
Comment (berpeti) [inline matching-logic/src/Experimental/EqCon.v:151]: Please, move this to `FOEqualityProofSystem.v`, together with the context.

File: matching-logic/src/Experimental/EqCon.v [hunk 7]
```diff
@@ -0,0 +1,241 @@
...
+    - now apply mf_imp_ktwf.
+    - now apply mf_imp_ktwf.
+    - exact (Hfpσ.1).
+    - auto.
+    - auto.
+    - exact (Hfpσ.2).
+  Defined.
+End EqCon.
+
+Section Example.
```
Comment (berpeti) [inline matching-logic/src/Experimental/EqCon.v:183]: Please, move this example to `FOEquality_ProofSystem.v`, right after the previous theorem.

**Review by berpeti — APPROVED** [review]
